US06451794B1
(iv) 2-(4-Fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazin-6-ol
A mixture of 2-(4-fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-6-methoxy-pyrazolo[1,5-b]pyridazine (321 mg) and pyridine hydrochloride (1.4 g) was heated to and at 200° C. in a sealed vessel (Reactivial™) for 3 hours. The cooled reaction was poured into water (20 ml), and extracted with ethyl acetate (3×30 ml). The combined organic extracts dried (MgSO4), filtered and evaporated in vacuo to give a solid which was triturated with diethyl ether to give the title compound as a beige solid (119 mg). Tlc, SiO2, Rf 0.07 (1:2 cyclohexane/ethyl acetate), detection UV. MH+ 384.

reactant | 2-(4-fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-6-methoxy-pyrazolo[1,5-b]pyridazine | 321 mg | FC1=CC=C(C=C1)C1=NN2N=C(C=CC2=C1C1=CC=C(C=C1)S(=O)(=O)C)OC | C20H16FN3O3S
reactant | pyridine hydrochloride | 1.4 g | Cl.N1=CC=CC=C1
solvent | water | 20 ml | O | H2O
product | 2-(4-Fluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazin-6-ol | 119 mg | FC1=CC=C(C=C1)C1=NN2N=C(C=CC2=C1C1=CC=C(C=C1)S(=O)(=O)C)O | C19H14FN3O3S
